US05696117
4-(3-Fluorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Methods F and G, alkylating with 3-flourobenzyl chloride, in 49% overall yield and isolated as a gummy solid; IR (KBr) 3425, 1683, 1501, 1401, 1252, 1061, 751 cm-1 ; 1H NMR (CDCl3) δ2.16-2.38 (m, 3H), 3.92 (t, J=5.8 Hz, 2H), 4.85 (dd, J=7.6, 5.5 Hz, 1H), 5.14 (s, 2H), 6.82-6.85 (m, 1H), 6.90-7.08 (m, 6H), 7.26-7.33 (m, 1H); MH+ at m/z=302; Anal. Calc'd for C17H16FNO3 : C, 67.76; H, 5.35; N, 4.65. Found: C, 67.48; H, 5.34; N, 4.57.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 3-flourobenzyl chloride | FC=1C=C(CCl)C=CC1 | C7H6ClF
reactant | KBr | [K+].[Br-]
product | 4-(3-Fluorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazine | FC=1C=C(CN2C(C(OC3=C2C=CC=C3)CCO)=O)C=CC1 | C17H16FNO3
